US08404679B2
N-{(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-[4-(3-methyl-[1,2,4]oxadiazol-5-yl)-benzoyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide
In analogy to the procedure described for the synthesis of example 87 (step c), the title compound N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[4-(3-methyl-[1,2,4]oxadiazol-5-yl)-benzoyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide was prepared from N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide using 4-(3-methyl-1,2,4-oxadiazol-5-yl)-benzoic acid instead of 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid and was obtained as a light yellow oil. MS m/e: 633.1 [M]+.

reactant | N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC=1C=C(C=CC1Cl)C1C(CNC1)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C20H19Cl2F3N2O2
reactant | 4-(3-methyl-1,2,4-oxadiazol-5-yl)-benzoic acid | CC1=NOC(=N1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O3
product | N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[4-(3-methyl-[1,2,4]oxadiazol-5-yl)-benzoyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(C1=CC=C(C=C1)C1=NC(=NO1)C)=O)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C30H25Cl2F3N4O4
